US06969730B2
1-(4′-hydroxy-1,1′-biphenyl-3-yl)ethanone
4-Iodophenol (5.39 g, 24.5 mmol) and 3-acetylphenylboronic acid (4.42 g, 26.95 mmol) were mixed in N,N-dimethylformamide (15 mL) and treated with 1.0 M aqueous Na2CO3 (75 mL) and palladium (II) acetate (110 mg, 0.49 mmol). The suspension was heated at 55° C. for one hour and then brought to room temperature. CH2Cl2 (100 mL) was added to the mixture which was then filtered. The aqueous layer of the filtrate was extracted with CH2Cl2 and the combined organic phases were washed consecutively with pH 6 potassium phosphate buffer and brine, then dried (Na2SO4), concentrated, and chromatographed through silica with a 33 to 100% gradient of hexanes/CH2Cl2 followed by a gradient of 0 to 3% EtOAc/CH2Cl2. Impure fractions were combined, concentrated, and rechromatographed as before, twice, to provide the title compound as an oil which slowly crystallized to a white solid upon standing (˜95% yield). MS (ESI APCI negative ion detection) m/z 211 (M−H)−; 1HNMR (300 MHz, CDCl3) δ 2.65 (s, 3 H), 6.97 (d, 2 H), 7.47-7.53 (m, 3 H), 7.74 (ddd, 1 H), 7.88 (ddd, 1 H), 8.13 (dd, 1 H).

reactant | 4-Iodophenol | 24.5 mmol, 5.39 g | IC1=CC=C(C=C1)O | C6H5IO
reactant | 3-acetylphenylboronic acid | 26.95 mmol, 4.42 g | C(C)(=O)C=1C=C(C=CC1)B(O)O | C8H9BO3
reactant | Na2CO3 | 1.0 M, 75 mL | C(=O)([O-])[O-].[Na+].[Na+]
reactant | CH2Cl2 | 100 mL | C(Cl)Cl | CH2Cl2
solvent | N,N-dimethylformamide | 15 mL | CN(C=O)C | C3H7NO
catalyst | palladium (II) acetate | 0.49 mmol, 110 mg | C(C)(=O)[O-].[Pd+2].C(C)(=O)[O-]
product | 1-(4′-hydroxy-1,1′-biphenyl-3-yl)ethanone | ˜95% yield | OC1=CC=C(C=C1)C1=CC(=CC=C1)C(C)=O | C14H12O2
